US07615562B2
(4-[2,2′]Bithiophenyl-5-yl-5-methyl-pyrimidin-2-yl)-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine
The title compound was prepared analogous to Method A, starting from [2,2′]bithiophenyl, 2,4-dichloro-5-methyl-pyrimidine and 4-amino-2,2,6,6-tetramethylpiperidine.

reactant | [2,2′]bithiophenyl | S1C(=CC=C1)C=1SC=CC1 | C8H6S2
reactant | 2,4-dichloro-5-methyl-pyrimidine | ClC1=NC=C(C(=N1)Cl)C | C5H4Cl2N2
reactant | 4-amino-2,2,6,6-tetramethylpiperidine | NC1CC(NC(C1)(C)C)(C)C | C9H20N2
product | (4-[2,2′]Bithiophenyl-5-yl-5-methyl-pyrimidin-2-yl)-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine | S1C(=CC=C1C1=NC(=NC=C1C)NC1CC(NC(C1)(C)C)(C)C)C=1SC=CC1 | C22H28N4S2
